US07071175B1
Diethyl malonate (1.29 mL, 8.5 mmol) was added to a mixture of NaH (60%, 0.34 g; 8.5 mmol) in DMF (10 mL). After stirring at room temperature for 15 min a solution of cis-(4-bromomethyl-cyclopent-2-enyl)-carbamic acid tert-butyl ester (1.95 g, 7.1 mmol) in DMF (12 mL) was added, and the reaction mixture was stirred at 60° C. for 19 h. EtOAc was added and the organic phase was extracted with water and brine, dried and concentrated under reduced pressure to give 2.44 g of the crude product. Purification by flash chromatography (CH2Cl2/EtOAc: 1/0→68/32) afforded of 2-(cis-4-tert-butoxycarbonylamino-cyclopent-2-enylmethyl)-malonic acid diethyl ester (1.47 g, 58%).

reactant | Diethyl malonate | 8.5 mmol, 1.29 mL | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | NaH | 8.5 mmol, 0.34 g | [H-].[Na+]
reactant | cis-(4-bromomethyl-cyclopent-2-enyl)-carbamic acid tert-butyl ester | 7.1 mmol, 1.95 g | C(C)(C)(C)OC(N[C@@H]1C=C[C@@H](C1)CBr)=O | C11H18BrNO2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
product | 2-(cis-4-tert-butoxycarbonylamino-cyclopent-2-enylmethyl)-malonic acid diethyl ester | 1.47 g, 58% | C(C)OC(C(C(=O)OCC)C[C@@H]1C=C[C@@H](C1)NC(=O)OC(C)(C)C)=O | C18H29NO6
